US07632952B2
68 mg of azetidine-1,3-dicarboxylic acid mono-tert-butyl ester, 256 mg of HBTU and 235 μl of DIEA are added to a solution of 4-(2-diisopropylamino-ethylamino)benzenesulfonic acid 2-aminobenzothiazol-6-yl ester (inter-mediate 34) (100 mg, 0.225 mmol) in 5 ml of dimethylformamide. The solution obtained is stirred for 20 hours at room temperature. After addition of 50 ml of water, the reaction medium is extracted with 3 times 25 ml of ethyl acetate. The extracts are dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 700 mg of crude oil. This oil is purified by elution in a 95/5 dichloromethane/methanol mixture at a flow rate of 10 ml/minute, on 20 g of silica, to give 39 mg of 3-{6-[4-(2-diisopropylaminoethylamino)-benzenesulfonyloxy]benzothiazol-2-ylcarbamoyl}azetidine-1-carboxylic acid tert-butyl ester.

reactant | azetidine-1,3-dicarboxylic acid mono-tert-butyl ester | 68 mg | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | HBTU | 256 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 235 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-diisopropylamino-ethylamino)benzenesulfonic acid 2-aminobenzothiazol-6-yl ester | 0.225 mmol, 100 mg | NC=1SC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NCCN(C(C)C)C(C)C | C21H28N4O3S2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-{6-[4-(2-diisopropylaminoethylamino)-benzenesulfonyloxy]benzothiazol-2-ylcarbamoyl}azetidine-1-carboxylic acid tert-butyl ester | 39 mg | C(C)(C)(C)OC(=O)N1CC(C1)C(NC=1SC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NCCN(C(C)C)C(C)C)=O | C30H41N5O6S2
